US07935824B2
(1R*,2S*)-4-(tert-Butyldiphenylsilyloxymethyl)-1,2-bis(methanesulfonyloxy)cyclohexane
Methanesulfonyl chloride (2.5 ml) was added dropwise to a dichloromethane solution (300 ml) of (1R*,2S*)-4-(tert-butyldiphenylsilyloxymethyl)-1,2-cyclohexanediol (4.2 g) and triethylamine (9.1 ml) at 0° C., and the mixture was stirred for 1.5 hours. Water was added to conduct extraction with dichloromethane, and the resultant organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated saline and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by medium-pressure column chromatography on silica gel (hexane:ethyl acetate=3:2) to obtain the title compound (4.9 g) as a pale yellow oil.

reactant | Methanesulfonyl chloride | 2.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | dichloromethane | 300 ml | ClCCl | CH2Cl2
reactant | (1R*,2S*)-4-(tert-butyldiphenylsilyloxymethyl)-1,2-cyclohexanediol | 4.2 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1C[C@@H]([C@@H](CC1)O)O | C23H32O3Si
reactant | triethylamine | 9.1 ml | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | (1R*,2S*)-4-(tert-Butyldiphenylsilyloxymethyl)-1,2-bis(methanesulfonyloxy)cyclohexane | 4.9 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1C[C@@H]([C@@H](CC1)OS(=O)(=O)C)OS(=O)(=O)C | C25H36O7S2Si
